US06964963B2
Preparation of 4-(2-([1]-naphthyloxy)ethyl)morpholine
441 g of 1-naphthol and 648 g of N-(2-chloroethyl)morpholine hydrochloride are initially charged in 2680 ml of ethanol at 50° C. 554 g of 50% aqueous sodium hydroxide are added dropwise within 3 h. Stirring is then continued at 50° C. for 3 h and then for 1 h under reflux.

reactant | 1-naphthol | 441 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | N-(2-chloroethyl)morpholine hydrochloride | 648 g | Cl.ClCCN1CCOCC1
reactant | sodium hydroxide | 554 g | [OH-].[Na+]
solvent | ethanol | 2680 ml | C(C)O | C2H6O
product | 4-(2-([1]-naphthyloxy)ethyl)morpholine | C1(=CC=CC2=CC=CC=C12)OCCN1CCOCC1 | C16H19NO2
